US07662965B2
Synthesis of 3-(3-((2-fluorobiphenyl-4-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (150 mg, 0.60 mmol) and 2-fluorobiphenyl-4-carboxaldehyde (155 mg, 0.78 mmol) were combined in a reaction vessel and treated with ethanol (10 mL) and concentrated HCl(aq) (5 drops). The vessel was then sealed and the reaction was heated to 85° C. overnight then cooled to room temperature. The reaction mixture was then concentrated under reduced pressure then partially dissolved into hot isopropanol. This mixture was left to cool and crystals formed. The crystals were recovered by vacuum filtration, washed with fresh isopropanol, and dried under vacuum giving 92 mg (36%) of a yellow solid. LC-MS: RT=5.88 min, [M+H]+=343.1.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.60 mmol, 150 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | 2-fluorobiphenyl-4-carboxaldehyde | 0.78 mmol, 155 mg | FC1=C(C=CC(=C1)C=O)C1=CC=CC=C1 | C13H9FO
catalyst | HCl | 5 drops | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(3-((2-fluorobiphenyl-4-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride | 92 mg, 36% | Cl.Cl.FC1=C(C=CC(=C1)C=C1C(=NCCC1)C=1C=NC=CC1)C1=CC=CC=C1 | InChI=1S/C23H19FN2.2ClH/c24-22-15-17(10-11-21(22)18-6-2-1-3-7-18)14-19-8-5-13-26-23(19)20-9-4-12-25-16-20;;/h1-4,6-7,9-12,14-16H,5,8,13H2;2*1H
